US08067447B2
(c)(d) (E)-ethyl 3-(1-(4-fluorophenyl)-6-methyl-1H-indazol-5-yl)acrylate (350 mg, 1.08 mmol) was dissolved in EtOH (30 mL) and hydrogenated over 10% Pd/C (70 mg) at 50 psi H2 for 4 h. The catalyst was filtered off and the solution was treated with 1 M NaOH (30 mL) and stirred for 16 h. The pH was adjusted to 4-5 with conc HCl. Most of the EtOH was removed in vacuo and the solution was extracted with EtOAc and dried over MgSO4, filtered, and conc. Obtained 320 mg (100%) of 3-(1-(4-fluorophenyl)-6-methyl-1H-indazol-5-yl)propanoic acid.

reactant | (E)-ethyl 3-(1-(4-fluorophenyl)-6-methyl-1H-indazol-5-yl)acrylate | 1.08 mmol, 350 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C)/C=C/C(=O)OCC | C19H17FN2O2
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 3-(1-(4-fluorophenyl)-6-methyl-1H-indazol-5-yl)propanoic acid | 320 mg, 100% | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C)CCC(=O)O | C17H15FN2O2
